US08030499B2
Step 129-1: Synthesis of 3-hydroxy-3-(2-methoxy-5-methylphenyl)-5-nitro-1,3-dihydro-2H-indol-2-one
With 10.0 g of 2-bromo-4-methyl anisole and 6.00 g of 5-nitroisatin as starting materials, 9.40 g of the title compound (brown solid) was obtained by a similar method to Step 21-1.

reactant | 2-bromo-4-methyl anisole | 10.0 g | BrC1=C(C=CC(=C1)C)OC | C8H9BrO
reactant | 5-nitroisatin | 6.00 g | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=O | C8H4N2O4
product | 3-hydroxy-3-(2-methoxy-5-methylphenyl)-5-nitro-1,3-dihydro-2H-indol-2-one | 9.40 g | OC1(C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)C1=C(C=CC(=C1)C)OC | C16H14N2O5
